US06906203B1
3-Cyano-7-dimethylamino-2-succinimido-4-(3-bromo-4,5-dimethoxyphenyl)-4H-chromene
The title compound was prepared from 2-amino-3-cyano-7-dimethylamino-4-(3-bromo-4,5-dimethoxyphenyl)-4H-chromene and succinyl chloride as a yellow solid by a procedure similar to that described for Example 80. 1H NMR (CDCl3): 7.12 (d, J=1.8, 1H), 6.89-6.85 (m, 2H), 6.47 (m, 1H), 6.26 (d, J=2.7, 1H), 4.79 (s, 1H), 3.87 (s, 3H), 3.83 (s, 3H), 2.96 (s, 4H), 2.92 (s, 6H).

reactant | 2-amino-3-cyano-7-dimethylamino-4-(3-bromo-4,5-dimethoxyphenyl)-4H-chromene | NC=1OC2=CC(=CC=C2C(C1C#N)C1=CC(=C(C(=C1)OC)OC)Br)N(C)C | C20H20BrN3O3
reactant | succinyl chloride | C(CCC(=O)Cl)(=O)Cl | C4H4Cl2O2
product | 3-Cyano-7-dimethylamino-2-succinimido-4-(3-bromo-4,5-dimethoxyphenyl)-4H-chromene | C(#N)C1=C(OC2=CC(=CC=C2C1C1=CC(=C(C(=C1)OC)OC)Br)N(C)C)N1C(CCC1=O)=O | C24H22BrN3O5
